US08084623B2
8-Azabicyclo[3.2.1]octane-3-one hydrochloride (nortropinone hydrochloride, 10.0 g, 62 mmol) was dissolved in 1,4-dioxane (200 mL) and water (50 mL). N,N-diisopropylethylamine (20.0 g, 155 mmol) and di-tert-butyldicarbonate (20.3 g, 93 mmol) were added, and the reaction mixture was stirred at room temperature for three hours. The mixture was diluted with water and extracted with ethyl acetate. The combined organic extracts were with water and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, ethyl acetate/hexane) to provide 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester as an off-white solid, 14 g (99% yield).

reactant | 8-Azabicyclo[3.2.1]octane-3-one hydrochloride | 62 mmol, 10.0 g | Cl.C12CC(CC(CC1)N2)=O
reactant | N,N-diisopropylethylamine | 155 mmol, 20.0 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyldicarbonate | 93 mmol, 20.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 99% yield | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=O | C12H19NO3
